US04874775
5-(2,4-difluorophenylaminomethyl)pyrimidine
A 26.7 g. portion of 5-chloromethylpyrimidine was dissolved in 25 ml. of dimethylformamide, and 9.4 g. of 2,4-difluoroaniline was added, followed by 6.1 g. of sodium bicarbonate. The mixture was stirred for several days with gentle heating. It was then diluted with water and extracted with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate, and evaporated under vacuum to obtain 13.75 g. of oil. The oil was dissolved in dichloromethane and purified over silica gel, eluting with dichloromethane, to obtain 4.9 g. of the desired intermediate product.

reactant | 5-chloromethylpyrimidine | ClCC=1C=NC=NC1 | C5H5ClN2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 2,4-difluoroaniline | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(2,4-difluorophenylaminomethyl)pyrimidine | FC1=C(C=CC(=C1)F)NCC=1C=NC=NC1 | C11H9F2N3
